US20010018525A1
step 3 2′-Methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-ol
To a stirred solution of 2′-methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-carboxaldehyde (0.836 g, 2.31 mmol) in CH2Cl2 (25 mL) at room temperature was added MCPBA (0.598 g, 3.46 mmol). The reaction mixture was refluxed for 48 h. After concentration, the residue was dissolved in EtOAc (300 mL). The organic layer was washed with sat. aq. NaHCO3 until effervescence ceased followed brine (30 mL) and then dried (Na2SO4). After concentration, the residue was dissolved in THF:MeOH (3:2, 45 mL) followed by the dropwise addition of 1 N KOH (11.6 mL, 11.6 mmol). The reaction mixture was stirred at room temperature for 1.5 h and then concentrated. The residue was diluted with H2O (30 mL) and then acidified to pH 4 with 1 N HCl followed by extraction with EtOAc (300 mL). This organic layer was washed with brine (30 mL) and then dried (MgSO4). After concentration, the residue was purified by the Biotage Flash 40 apparatus (5 to 15% acetone/hexane gradient) to afford the product (0.490 g, 61%) as a solid; 1H NMR (CDCl3) δ2.73-2.86 (m, 2H), 2.90-2.98 (m, 2H), 3.17 (s, 3H), 4.35 (s, 2H), 4.67 (s, 1H), 6.82 (s, 2H), 7.27-7.47 (m, 6H), 7.57 (d, J= 9.3 Hz, 4H);mass spectrum [(+) ESI], m/z 373 (M+Na)+.

reactant | 2′-methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-carboxaldehyde | 2.31 mmol, 0.836 g | COCCOCOC1=C(C=C(C=C1C1=CC=CC=C1)C=O)C1=CC=CC=C1 | C23H22O4
reactant | MCPBA | 3.46 mmol, 0.598 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | KOH | 11.6 mmol, 1 N, 11.6 mL | [OH-].[K+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2′-Methoxyethoxymethoxy-[1,1′;3′,1″]terphenyl-5′-ol | 0.490 g, 61% | COCCOCOC1=C(C=C(C=C1C1=CC=CC=C1)O)C1=CC=CC=C1 | C22H22O4
